US06583135B2
Sodium hydride (0.302 g, 7.55 mmol, 2.16 equiv., 60% dispersion) was added to a solution of tert-butyl 1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (1.00 g, 3.49 mmol) in DMF (15 mL) at rt under N2 and the mixture was stirred for 1.66 h. β-Propiolactone (0.55 mL, 0.629 g, 8.73 mmol, 2.5 equiv.) was added in four portions over 1 h, then the reaction mixture was stirred for 72 h at rt. The reaction mixture was partitioned between EtOAc (50 mL) and 10% citric acid (25 mL), and the layers were separated. The organic layer was washed with 10% citric acid. The combined aqueous layers were extracted with EtOAc (25 mL). The combined organic layers were washed with brine (25 mL), dried over MgSO4, filtered, and concentrated. The crude product (2.27 g) was dissolved in CH3OH (30 mL), then water (5 mL) and K2CO3 (2.10 g. 15.2 mmol) was added, and the reaction mixture was stirred overnight. The reaction mixture was concentrated, and the residue was partitioned between EtOAc (100 mL) and water (100 mL). The organic layer was extracted with 10% aq. Na2CO3 (2×50 mL) and 1N NaOH (2×50 mL). The combined aqueous layers were made acidic (pH=2) by the addition of 2.9 M HCl and 10% aq. citric acid. The acidified aqueous mixture was extracted with EtOAc (3×100 mL). The organic extracts were washed with water (50 mL) followed by brine (50 mL), dried over MgSO4, filtered, and concentrated. The crude product (1.06 g) was chromatographed (SiO2 109 g, eluted with 4% MeOH in CH2Cl2 followed by 10% MeOH in CH2Cl2) to give 3-(3-(tert-butoxycarbonyl)-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)propanoic acid (0.796 g) in 63% yield. 1H NMR (300 MHz, CDCl3) δ 1.51 (s, 9H), 2.78, 2.99-3.08, 3.67-3.81, 4.42, 7.13, 7.20, 7.31, 7.49, 10.48; MS (ESI+) for C20H26N2O4 m/z 359.3 (M+H)+.

reactant | Sodium hydride | 7.55 mmol, 0.302 g, 2.16 equiv. | [H-].[Na+]
reactant | tert-butyl 1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 3.49 mmol, 1.00 g | C1CN(CCC=2NC=3C=CC=CC3C21)C(=O)OC(C)(C)C | C17H22N2O2
reactant | β-Propiolactone | 8.73 mmol, 0.55 mL, 0.629 g, 2.5 equiv. | C1(CCO1)=O | C3H4O2
reactant | K2CO3 | 15.2 mmol, 2.10 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | 3-(3-(tert-butoxycarbonyl)-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)propanoic acid | 0.796 g, 63% yield | C(C)(C)(C)OC(=O)N1CCC=2N(C=3C=CC=CC3C2CC1)CCC(=O)O | C20H26N2O4
